US04677129
(d) 3-neopentyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione
2.4 ml of neopentylamine are added dropwise at room temperature to a suspension of 2.5 g of 1-(4-nitrophenyl)-1,3-cyclobutanedicarboxylic acid anhydride in 6 ml of acetic acid. The mixture is stirred at 120° for 20 hours. After concentration by evaporation, the residue is chromatographed over silica gel with a 2:1 ether/hexane mixture. A fraction is obtained that is identical with the title compound of Example 4b.

reactant | neopentylamine | 2.4 ml | C(C(C)(C)C)N | C5H13N
reactant | 1-(4-nitrophenyl)-1,3-cyclobutanedicarboxylic acid anhydride | 2.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C12CC(C1)C(=O)OC2=O | C12H9NO5
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3-neopentyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | C(C(C)(C)C)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C17H20N2O4
